US05716624
Preparation of 4-[1-hydroxy-3-(4,4-dimethylthiochroman-6-yl)-2-propynyl]benzoic acid
2 g (9.9 mmol) of (4,4-dimethylthiochroman-6- yl)acetylene and 25 ml of THF were introduced into a three-necked flask under a stream of nitrogen, 4 ml (9.9 mmol) of an n-butyllithium solution (2.5M in hexane) were added dropwise at -50° C. and stirring was carried out for 30 min. A solution of 743 mg (4.9 mmol) of 4-carboxybenzaldehyde in 25 ml of THF was then added and stirring was carried out at room temperature for one hour. The reaction mixture was poured into water and extracted with ethyl ether. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue was recrystallized from diisopropyl ether. After filtration, 730 mg (42%) of the expected acid, with a melting point of 168°-169° C., were obtained.

reactant | (4,4-dimethylthiochroman-6- yl)acetylene | 9.9 mmol, 2 g | CC1(CCSC2=CC=C(C=C12)C#C)C | C13H14S
reactant | n-butyllithium | 9.9 mmol, 2.5M, 4 ml | C(CCC)[Li]
reactant | 4-carboxybenzaldehyde | 4.9 mmol, 743 mg | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | water | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-[1-hydroxy-3-(4,4-dimethylthiochroman-6-yl)-2-propynyl]benzoic acid | OC(C#CC=1C=C2C(CCSC2=CC1)(C)C)C1=CC=C(C(=O)O)C=C1 | C21H20O3S
